US05670505
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (0.5 g), tert-butyl bromoacetate (0.2 ml) and triethylamine (0.31 ml) in tetrahydrofuran (10 ml) was stirred at room temperature for 12 hours. After filtration, the filtrate was concentrated to a syrup, which was subjected to a chromatography on a silica gel with a mixture of toluene and ethyl acetate (20:1) to afford (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(tert-butoxycarbonylmethyl)piperazine (0.52 g). This compound was treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-carboxymethyl-2-(3,4-dimethylbenzyl)piperazine hydrochloride (0.33 g) as a white powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 0.5 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | tert-butyl bromoacetate | 0.2 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(tert-butoxycarbonylmethyl)piperazine | 0.52 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)OC(C)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H32F6N2O3
